US08044068B2
Ethyl 1-(2-((S)-1-(2-biphenyl-1-ylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperidine-4-carboxylate (0.59 g) synthesized in the same manner as the method described in Example 1 was dissolved in methanol (4.5 mL), followed by addition of 2.2 M aqueous sodium hydroxide (1.3 mL), and the mixture was stirred at room temperature for 1 day. 1 M hydrochloric acid was added until the reaction solution became pH 7, the mixture was stirred at room temperature for 2 days, and then the precipitated solids were collected by filtration to obtain 1-(2-((S)-1-(2-biphenyl-2-ylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperidine-4-carboxylic acid (0.30 g). (2) To a mixture of 1-(2-((S)-1-(2-biphenyl-2-ylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperidine-4-carboxylic acid (0.17 g) and DMF (5.0 mL) were added EDC.HCl (85 mg) and HOBt.H2O (77 mg), followed by addition of 28% aqueous NH3 (0.023 mL), and the mixture was stirred at room temperature for 17 h. The reaction solution was diluted with ethyl acetate and then washed with saturated aqueous sodium hydrogencarbonate, water, and saturated brine, and the organic layer was dried with anhydrous sodium sulfate. The desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, then the residue was purified by silica gel column chromatography (NH silica gel, chloroform/methanol=10:1), and then the resulting compound was crystallized in diethyl ether to obtain 1-(2-((S)-1-(2-biphenyl-2-ylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperidine-4-carboxylic acid amide (160 mg).

reactant | Ethyl 1-(2-((S)-1-(2-biphenyl-1-ylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperidine-4-carboxylate | 0.59 g | C1(CC=CC=C1)(C1=CC=CC=C1)CC(=O)N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCC(CC1)C(=O)OCC | C34H39N5O3
reactant | sodium hydroxide | 2.2 M, 1.3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 4.5 mL | CO | CH4O
product | 1-(2-((S)-1-(2-biphenyl-2-ylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperidine-4-carboxylic acid | 0.30 g | C1(=C(C=CC=C1)CC(=O)N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCC(CC1)C(=O)O)C1=CC=CC=C1 | C32H33N5O3
